US08049015B2
3-[(N-Benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzoic acid (0.1 g, 0.26 mmol) and catalytic DMF (0.01 mL) were combined in CH2Cl2 (4 mL) at room temperature. Oxalyl chloride (0.03 mL, 0.33 mmol) was added, and the reaction was stirred for 30 minutes. The solution was concentrated and dried under vacuum, and then NMP (3 mL) and diisopropylethylamine (0.14 mL, 0.78 mmol) were added. Benzylamine (0.04 mL, 0.39 mmol) was then added, and the reaction was stirred for 5 minutes. The mixture was poured into H2O and partitioned with 1:1 EtOAc:hexanes. The organic layer was washed with saturated aqueous NaHCO3, H2O, and dilute brine, and then dried, filtered, and concentrated to give N-benzyl-3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzamide.

reactant | 3-[(N-Benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzoic acid | 0.26 mmol, 0.1 g | C(C1=CC=CC=C1)N(C(=O)C1CC1)CC=1C=C(C(=O)O)C=CC1Br | C19H18BrNO3
reactant | Oxalyl chloride | 0.33 mmol, 0.03 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diisopropylethylamine | 0.78 mmol, 0.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Benzylamine | 0.39 mmol, 0.04 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | DMF | 0.01 mL | CN(C)C=O | C3H7NO
product | N-benzyl-3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzamide | C(C1=CC=CC=C1)NC(C1=CC(=C(C=C1)Br)CN(C(=O)C1CC1)CC1=CC=CC=C1)=O | C26H25BrN2O2
